US08975252B2
N-Bromosuccinimide (978 mg) was added to a solution of [7-(3-methoxypropoxy)-1-benzofuran-5-yl]methanol (1.18 g) in dichloromethane (30 ml) under ice-cooling and the mixture was stirred at the same temperature for 10 minutes. The reaction mixture was concentrated in vacuo and the resulted residue was purified with a silica gel column chromatography (eluting solvent: n-hexane/ethyl acetate=1/1) to give [4-bromo-7-(3-methoxypropoxy)-1-benzofuran-5-yl]methanol (1.46 g) as a colorless oil.

reactant | N-Bromosuccinimide | 978 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | [7-(3-methoxypropoxy)-1-benzofuran-5-yl]methanol | 1.18 g | COCCCOC1=CC(=CC=2C=COC21)CO | C13H16O4
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | [4-bromo-7-(3-methoxypropoxy)-1-benzofuran-5-yl]methanol | 1.46 g | BrC1=C(C=C(C2=C1C=CO2)OCCCOC)CO | C13H15BrO4
